US06268387B1
3-Amino-4-methoxy-N-(3-chloro-4-methylphenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (3.0 mL, 4.39 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), DMF (1.0 mL, 12.92 mmol), and 3-chloro-4-methylaniline (7.0 mL, 57.69 mmol). Chromatography on silica gel in 95:5 dichloromethane/methanol gave the product, (2.72 g), m.p. 153-157° C.

reactant | oxalyl chloride | 4.39 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | DMF | 12.92 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | 3-chloro-4-methylaniline | 57.69 mmol, 7.0 mL | ClC=1C=C(N)C=CC1C | C7H8ClN
solvent | dichloromethane methanol | ClCCl.CO
product | 3-Amino-4-methoxy-N-(3-chloro-4-methylphenyl)-benzamide | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)Cl)C=CC1OC | C15H15ClN2O2
